US07781422B2
Step 8: N-benzyl-N-[(3-chloropropyl)sulfonyl]-3-cyclohexyl-1-(2-{methyl[2-(methylamino)ethyl]amino}-2-oxoethyl)-2-phenyl-1H-indole-6-carboxamide hydrochloride
A solution of the crude tert-butyl {2-[{[6-({benzyl[(3-chloropropyl)sulfonyl]amino}carbonyl)-3-cyclohexyl-2-phenyl-1H-indol-1-yl]acetyl}(methyl)amino]ethyl}methylcarbamate in DCM) (0.09 M) was treated with TFA (140 eq) at 0° C. The reaction was allowed to reach RT in about 1 h. The solvent was then removed in vacuo, a 2 M solution HCl in Et2O was added and the volatiles removed in vacuo. Acetonitrile was added and the precipitate was collected by filtration to afford clean compound (30%). (ES+) m/z 677 (M+H)+

reactant | tert-butyl {2-[{[6-({benzyl[(3-chloropropyl)sulfonyl]amino}carbonyl)-3-cyclohexyl-2-phenyl-1H-indol-1-yl]acetyl}(methyl)amino]ethyl}methylcarbamate | C(C1=CC=CC=C1)N(C(=O)C1=CC=C2C(=C(N(C2=C1)CC(=O)N(CCN(C(OC(C)(C)C)=O)C)C)C1=CC=CC=C1)C1CCCCC1)S(=O)(=O)CCCCl | C42H53ClN4O6S
reactant | TFA | 140 eq | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-benzyl-N-[(3-chloropropyl)sulfonyl]-3-cyclohexyl-1-(2-{methyl[2-(methylamino)ethyl]amino}-2-oxoethyl)-2-phenyl-1H-indole-6-carboxamide hydrochloride | 30% | Cl.C(C1=CC=CC=C1)N(C(=O)C1=CC=C2C(=C(N(C2=C1)CC(=O)N(CCNC)C)C1=CC=CC=C1)C1CCCCC1)S(=O)(=O)CCCCl | InChI=1S/C37H45ClN4O4S.ClH/c1-39-22-23-40(2)34(43)27-41-33-25-31(37(44)42(47(45,46)24-12-21-38)26-28-13-6-3-7-14-28)19-20-32(33)35(29-15-8-4-9-16-29)36(41)30-17-10-5-11-18-30;/h3,5-7,10-11,13-14,17-20,25,29,39H,4,8-9,12,15-16,21-24,26-27H2,1-2H3;1H
